US08420655B2
To a solution of (4-bromo-2-nitro-phenyl)-tert-butyl-amine (7.2 g, 0.026 mol) in DMF (100 mL) and H2O (10 mL) are added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrimidin-2-ylamine (8.7 g, 0.04 mol), Pd(PPh3)4 (3 g, 0.003 mol) and K2CO3 (7.3 g, 0.053 mol) at room temperature. The solution is heated to 100° C. for 2 hours. The solution is cooled down, washed with H2O (100 mL) and extracted with EtOAc (3×50 mL). The combined organic layer is dried with MgSO4 and filtered. The filtrate is concentrated and the residue is re-crystallized in CH2Cl2 (10 mL) to afford 5-(4-tert-butylamino-3-nitro-phenyl)-pyrimidin-2-ylamine as a scarlet solid (6.3 g, 83%).

reactant | (4-bromo-2-nitro-phenyl)-tert-butyl-amine | 0.026 mol, 7.2 g | BrC1=CC(=C(C=C1)NC(C)(C)C)[N+](=O)[O-] | C10H13BrN2O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrimidin-2-ylamine | 0.04 mol, 8.7 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | K2CO3 | 0.053 mol, 7.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.003 mol, 3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-tert-butylamino-3-nitro-phenyl)-pyrimidin-2-ylamine | C(C)(C)(C)NC1=C(C=C(C=C1)C=1C=NC(=NC1)N)[N+](=O)[O-] | C14H17N5O2
